US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-hydroxyindoline-2(R/S)-carboxylic acid 2,2,2-trifluoroethylamide
A mixture of 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2(R/S)-carboxylic acid 2,2,2-trifluoroethylamide (0.9 g, 1.68 mmol) and palladium on activated carbon (0.1 g, 10% wet) in ethyl acetate (20 mL) was hydrogenated under 30 psi hydrogen at room temperature overnight. Then the catalyst was removed by filtration over celite, and the filtrate was evaporated to provide a white solid.

reactant | 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2(R/S)-carboxylic acid 2,2,2-trifluoroethylamide | 1.68 mmol, 0.9 g | FC(CNC(=O)C1N(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)C([C@H](CC)NC(=O)OC(C)(C)C)=O)(F)F | C27H32F3N3O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 0.1 g | [Pd] | Pd
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-hydroxyindoline-2(R/S)-carboxylic acid 2,2,2-trifluoroethylamide | FC(CNC(=O)C1N(C2=CC=C(C=C2C1)O)C([C@H](CC)NC(=O)OC(C)(C)C)=O)(F)F | C20H26F3N3O5
